2161-03-15 09:44:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca with
   palliative xrt, admitted initially from NH on [**3-10**] for lethargy and
   confusion, felt [**2-14**] medications/narcotics, with additional infectious
   work up pursued, transferred to MICU for UGI, hypotension with new
   afib.
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2161-3-14**] 10:17 PM
 ENDOSCOPY - At [**2161-3-15**] 02:48 AM
   L a-line placed
   R fem cordis placed
   2 units prbc's transfused
   Emergent egd with intubation for procedure-- DU at bulb with large
   clot, blindly injected and PPI ggt started
   hypotension post-intubation with reponse  to IVF bolus
   Hyptensiove to 70 systolic this am after 1 mg versed with response to
   IVF bolus
   vent settings adjusted for persistent alkolosis
   dig load started for rapid a-fib
                        History obtained from Medical records, housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-3-15**] 02:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2161-3-15**] 08:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-15**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 101 (90 - 129) bpm
   BP: 85/61(70) {75/48(57) - 154/83(106)} mmHg
   RR: 33 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  1,019 mL
                                                                  1,881 mL
   PO:
           TF:
   IVF:
                                                                    644 mL
                                                                  1,506 mL
   Blood products:
                                                                    375 mL
                                                                    375 mL
   Total out:
                                                                    360 mL
                                                                    175 mL
   Urine:
                                                                    360 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    659 mL
                                                                  1,706 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.41/27/189/18/-5
   Ve: 18.2 L/min
   PaO2 / FiO2: 473
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachy irreg
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Cool extremeities, nail beds cyanotic appearing, No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   176 K/uL
   154 mg/dL
   2.1 mg/dL
   18 mEq/L
   4.5 mEq/L
   62 mg/dL
   111 mEq/L
   140 mEq/L
   30.9 %
   14.8 K/uL
        [image002.jpg]
                             [**2161-3-14**]  09:41 PM
                             [**2161-3-15**]  02:34 AM
                             [**2161-3-15**]  04:01 AM
                             [**2161-3-15**]  04:18 AM
                             [**2161-3-15**]  07:23 AM
                             [**2161-3-15**]  08:55 AM
   WBC
   14.8
   Hct
   22.9
   28.5
   30.9
   Plt
   176
   Cr
   2.1
   TCO2
   19
   19
   18
   Glucose
   154
   Other labs: PT / PTT / INR:12.9/24.9/1.1, Differential-Neuts:96.2 %,
   Band:0.0 %, Lymph:2.1 %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Ca++:6.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: et ok, no effusion, L lung cut-off
   Assessment and Plan
   86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca with
   palliative xrt, admitted initially from NH on [**3-10**] for lethargy and
   confusion, felt [**2-14**] medications/narcotics, with additional infectious
   work up pursued, transferred to MICU for UGI from large DU c/b
   hypotension,  new afib, intubated for egd, now with worsening arf
   Main issues include:
   #UGIB
from DU, continue serial h/h.  hct stable post egd and
   transfusions
      Continue iv ppi ggt
   #ARF-likely atn from hypovolemia with hypotension,
            send u/a, lytes, aggressive IVF and blood, trend lactate
   Hypotension/shock - concern for hypovolemia verses cardiogenic in pt
   with known cad and aaa, also component of medication response.  Given
   compromised status on chronic steroids and new temp sepsis shock of
   high concern as well.  Empiric antibx for hopstial coverage
vanco and
   zosyn.  Pan cx prior.  Limited ability to treat cardiac ischemia given
   recent bleeding/DU and hypotension, but  would trend enzymes and repeat
   echo, rate control with dig.  Continue current dose of decadron
   #Respiratory alkalosis--intubated for airway initially  though now
   would continue on vent given shock and need for aggressive fluids,
   concern for aspiration and sepsis, possibly repeat egd or imaging and
   difficult intubation
       Adjust MV, treat pain and agitation
   #Afb
review old ecgs to assess chronicity, in setting of
   hypovolemia---dig load for rates, follow
   #Advanced malignancy
palliative xrt if stabilzes/ continue decadron
   # Family mtg regarding goals of care/code status
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2161-3-14**] 10:17 PM
   20 Gauge - [**2161-3-15**] 02:00 AM
   Comments: r IJ tl today but would continue fem cordis given potenial
   need for resuciation
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-03-15 09:44:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca with
   palliative xrt, admitted intially [**3-10**] for lethargy and confusion from
   NH, felt [**2-14**] medications/narcotics, with additonal infectious work up
   pursued, transferred to MICU for coffee ground emesis/UGI, hypotension
   with new afib.
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2161-3-14**] 10:17 PM
 ENDOSCOPY - At [**2161-3-15**] 02:48 AM
   L a-line palced
   R fem cordis
   2 units prbc's yesterday
   Emergent egd with intubation for procedure-- DU at bulb with large
   clot, blindly injected and PPI ggt started
   hypotension post-0intubation with reposne to IVF bolus
   Hyptensiove to 7-0 systolic this am after 1 mg versed with response to
   IVF bolus
   vent settings adjusted for persistent alkolsis--> transitioned to PS
   dig load started for rapid a-fib
                        History obtained from Medical records, housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-3-15**] 02:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2161-3-15**] 08:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-15**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 101 (90 - 129) bpm
   BP: 85/61(70) {75/48(57) - 154/83(106)} mmHg
   RR: 33 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  1,019 mL
                                                                  1,881 mL
   PO:
           TF:
   IVF:
                                                                    644 mL
                                                                  1,506 mL
   Blood products:
                                                                    375 mL
                                                                    375 mL
   Total out:
                                                                    360 mL
                                                                    175 mL
   Urine:
                                                                    360 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    659 mL
                                                                  1,706 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.41/27/189/18/-5
   Ve: 18.2 L/min
   PaO2 / FiO2: 473
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachy irreg
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Cool extremeities, nail beds cyanotic appearing, No(t) Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   176 K/uL
   154 mg/dL
   2.1 mg/dL
   18 mEq/L
   4.5 mEq/L
   62 mg/dL
   111 mEq/L
   140 mEq/L
   30.9 %
   14.8 K/uL
        [image002.jpg]
                             [**2161-3-14**]  09:41 PM
                             [**2161-3-15**]  02:34 AM
                             [**2161-3-15**]  04:01 AM
                             [**2161-3-15**]  04:18 AM
                             [**2161-3-15**]  07:23 AM
                             [**2161-3-15**]  08:55 AM
   WBC
   14.8
   Hct
   22.9
   28.5
   30.9
   Plt
   176
   Cr
   2.1
   TCO2
   19
   19
   18
   Glucose
   154
   Other labs: PT / PTT / INR:12.9/24.9/1.1, Differential-Neuts:96.2 %,
   Band:0.0 %, Lymph:2.1 %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L,
   Ca++:6.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: et ok, no effusion, L lung cut-off
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), LUNG
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ATRIAL FIBRILLATION (AFIB)
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   UGIB c/b hypotension and new a-fib, intubated for procedure
   h/h stable post 2 units and egd--continue IV PPI, h/h q 4
   ARF--likely pre-renal now proably atn setting of hypotension, decreased
   u/o, would send u/a, ltyes, aggressive IVF and blood, trneding  lactate
   Afib--likely demand, ischemia in setting of hypovolemia---dig load for
   rates, follow
   Hypotension/shock -clamped down, concern for hypovolemia verses
   cardiogenic in pt with known cad and aaa, also component of medication
   response,however, given compromised status on decadrom would start
   infection w/u with cx's and u/a, concern for new crdiac event/ischemia
   though limited ability to treat given recent bleeding would not give
   heparin asa or palvix, would trend enzymes and repeat echo TTE,
   continue current dose of decadron
   advanced malignancy--palliative, on decadron
   respiratory alkalosis--intubated for airway though now would continue
   on vent given shock and need for aggressive fuid, possibly repeat egd
   or imaging--difficult intubation
   ewith respiratory alkalosis--pain/aggitation, fentanlyl
   family reagrding goals of care as now with multi organ systme
   fialure--cardiac and renal, and prognosis of suyrviving cardiac arrest
   is extremely poor
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2161-3-14**] 10:17 PM
   20 Gauge - [**2161-3-15**] 02:00 AM
   Comments: r IJ tl today but would continue fem cordis given potenial
   need for resuciation
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-03-16 10:18:00 Physician Attending Progress Note
Chief Complaint: UGIB, Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca with
   palliative xrt, admitted initially from NH on [**3-10**] for lethargy and
   confusion, felt [**2-14**] medications/narcotics, with additional infectious
   work up pursued, transferred to MICU for UGI from large DU c/b
   hypotension,  new afib, intubated for egd, now with worsening arf and
   thick secretions likely developing VAP
   24 Hour Events:
   L IJ placed yesterday, new a-line placed
   Hypotensive on rounds, spiked temp--responded to IVBF and blood without
   need
        for pressors
   Blood cx's sent, zosyn and vanco started
   Hct remained stable 28-31 with no evidence of acute rebleeding
   History obtained from Patient
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-3-15**] 02:00 AM
   Vancomycin - [**2161-3-15**] 02:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-16**] 08:59 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2161-3-15**] 08:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Flowsheet Data as of  [**2161-3-16**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 110 (71 - 110) bpm
   BP: 109/56(72) {48/45(39) - 154/123(132)} mmHg
   RR: 34 (14 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   CVP: 12 (2 - 12)mmHg
   Total In:
                                                                  6,069 mL
                                                                    792 mL
   PO:
   TF:
   IVF:
                                                                  4,944 mL
                                                                    792 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  1,605 mL
                                                                    685 mL
   Urine:
                                                                  1,605 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,464 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 69
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.47/24/95.[**Numeric Identifier 218**]/16/-3
   Ve: 16.5 L/min
   PaO2 / FiO2: 317
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), a fib
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Tactile stimuli, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   109 K/uL
   108 mg/dL
   1.5 mg/dL
   16 mEq/L
   4.0 mEq/L
   45 mg/dL
   117 mEq/L
   143 mEq/L
   30.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2161-3-15**]  04:18 AM
                             [**2161-3-15**]  07:23 AM
                             [**2161-3-15**]  08:55 AM
                             [**2161-3-15**]  11:25 AM
                             [**2161-3-15**]  03:29 PM
                             [**2161-3-15**]  08:58 PM
                             [**2161-3-15**]  10:50 PM
                             [**2161-3-15**]  11:34 PM
                             [**2161-3-16**]  04:14 AM
                             [**2161-3-16**]  04:26 AM
   WBC
   14.3
   14.7
   Hct
   30.9
   28.2
   28.6
   31.8
   32.2
   30.6
   Plt
   118
   124
   109
   Cr
   1.5
   1.5
   TropT
   0.02
   0.02
   TCO2
   19
   18
   18
   18
   Glucose
   112
   108
   Other labs: PT / PTT / INR:13.4/29.0/1.1, CK / CKMB /
   Troponin-T:40/2/0.02, Differential-Neuts:96.2 %, Band:0.0 %, Lymph:2.1
   %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Ca++:7.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Imaging: cxr--b/l opacities, stable from yesterday, lines et ok
   Microbiology: sputum cx oral flora
   bl pending
   Assessment and Plan
   86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca
   geting palliative xrt, admitted initially from NH on [**3-10**] for lethargy
   and confusion, felt [**2-14**] medications/narcotics, with additional
   infectious work up pursued, transferred to MICU for UGI from large DU
   c/b hypotension, afib, intubated for egd, now with worsening arf and
   thick secretions concerning for developing VAP/aspiration and ARF
   Main issues include:
   # UGIB
from DU, continue serial h/h Q 4 Hct continues to dip slowly
                  Transfuse for active bleed or < 26
                  Change ggt to IV PPI, gi continues to follow with no
   plans at this time to re-egd
   # ARF-likely atn from hypovolemia/hypotension,
              ? RTA with mixed acid base--resp alk and met acidosis,
               renally dose meds,
               cr stable and now with improving u/o--will continue to
   follow
   #  Hypotension/shock - HD stabilization, never requiring pressor
   support, no evidence of cardiac ischemia neg cardiac enzymes
        Likely septic
        Continue empiric HAP antibx coverage
vanco and zosyn. Awaiting cx
   data
        Repeat sputum.
        Continue current dose of decadron
   #Respiratory failure--intubated for airway initially though now
   developing  VAP, possible aspiration,
         Respiratory alkalosis
 adjust MV, treat pain and agitation
         doing well from oxygenation standpoint (30%) but with high MV and
   thick sx
         Continue on vent
   #Afb/svt
review of old ecgs to shows that afib is not new,
                      continue dig, check level
                      ep about pacer
   #Advanced malignancy
palliative xrt if stabilzes/ continue decadron
   (talk to rad onc about need verses taper)
   ICU Care
   Nutrition:
   Comments: NPO, consider TFs tomorrow if no further evidence of bleed
   and Gi not planning to rescope
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2161-3-14**] 10:17 PM
monitor h/h a/ plan to pull fem
   line if remains stable
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-03-16 10:18:00 Physician Attending Progress Note
Chief Complaint: UGIB, Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   L IJ placed yesterday, new a-line placed
   Hypotensive on rounds, spiked to temp--responded to IVBF and blood
   without need for pressors
   Blood cx's sent, zosyn and vanco started
   Hct stable 28-31 with no evidence of acute rebleeding
 BLOOD CULTURED - At [**2161-3-15**] 10:44 AM
 SPUTUM CULTURE - At [**2161-3-15**] 10:44 AM
 URINE CULTURE - At [**2161-3-15**] 10:45 AM
 BLOOD CULTURED - At [**2161-3-15**] 11:24 AM
 MULTI LUMEN - START [**2161-3-15**] 01:38 PM
 EKG - At [**2161-3-15**] 02:44 PM
 EKG - At [**2161-3-15**] 04:39 PM
 ARTERIAL LINE - STOP [**2161-3-15**] 05:00 PM
 ARTERIAL LINE - START [**2161-3-16**] 02:02 AM
   History obtained from Patient
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-3-15**] 02:00 AM
   Vancomycin - [**2161-3-15**] 02:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-16**] 08:59 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2161-3-15**] 08:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Flowsheet Data as of  [**2161-3-16**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 110 (71 - 110) bpm
   BP: 109/56(72) {48/45(39) - 154/123(132)} mmHg
   RR: 34 (14 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
   CVP: 12 (2 - 12)mmHg
   Total In:
                                                                  6,069 mL
                                                                    792 mL
   PO:
   TF:
   IVF:
                                                                  4,944 mL
                                                                    792 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  1,605 mL
                                                                    685 mL
   Urine:
                                                                  1,605 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,464 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 69
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.47/24/95.[**Numeric Identifier 218**]/16/-3
   Ve: 16.5 L/min
   PaO2 / FiO2: 317
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), a fib
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Tactile stimuli, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   109 K/uL
   108 mg/dL
   1.5 mg/dL
   16 mEq/L
   4.0 mEq/L
   45 mg/dL
   117 mEq/L
   143 mEq/L
   30.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2161-3-15**]  04:18 AM
                             [**2161-3-15**]  07:23 AM
                             [**2161-3-15**]  08:55 AM
                             [**2161-3-15**]  11:25 AM
                             [**2161-3-15**]  03:29 PM
                             [**2161-3-15**]  08:58 PM
                             [**2161-3-15**]  10:50 PM
                             [**2161-3-15**]  11:34 PM
                             [**2161-3-16**]  04:14 AM
                             [**2161-3-16**]  04:26 AM
   WBC
   14.3
   14.7
   Hct
   30.9
   28.2
   28.6
   31.8
   32.2
   30.6
   Plt
   118
   124
   109
   Cr
   1.5
   1.5
   TropT
   0.02
   0.02
   TCO2
   19
   18
   18
   18
   Glucose
   112
   108
   Other labs: PT / PTT / INR:13.4/29.0/1.1, CK / CKMB /
   Troponin-T:40/2/0.02, Differential-Neuts:96.2 %, Band:0.0 %, Lymph:2.1
   %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Ca++:7.0 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Imaging: cxr--b/l opacities, stable from yesterday, lines et ok
   Microbiology: sputum cx oral flora
   bl pending
   Assessment and Plan
   Assessment and Plan
   86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca with
   palliative xrt, admitted initially from NH on [**3-10**] for lethargy and
   confusion, felt [**2-14**] medications/narcotics, with additional infectious
   work up pursued, transferred to MICU for UGI from large DU c/b
   hypotension,  new afib, intubated for egd, now with worsening arf and
   thick secretions likely developing VAP
    Main issues include:
   # UGIB
from DU, continue serial h/h Q 4 Hct continues to dip slowly hct
   stable post egd and transfusions fro active bleeding/hct drop below 28
                  continue iv ppi ggt, gi continues to follow
   # ARF-likely atn from hypovolemia with hypotension, ? RTA with mixed
   acid base--resp alk and met acidosis, renally dose meds,
               cr satble and now with improving u/o--will continue tofm
   ollow
   #  Hypotension/shock - HD stabilization, never required pressor
   support, NO EVIDENCE OF CARDIAC ISCHEMIA.  LIEKLY SEPTIC from new
   infection concern for hypovolemia verses
     cardiogenic in pt with known cad and aaa, also component of
   medication response.  Given compromised status on chronic steroids and
   new temp sepsis shock of high concern as well.  Empiric antibx for
   hopstial coverage
vanco and zosyn.
         Pan cx and repeat sputum.  Limited ability to treat cardiac
   ischemia given recent bleeding/DU and hypotension, but  would trend
   enzymes and repeat echo, rate control with dig.  Continue current dose
   of decadron
   #Respiratory failiure--intubated for airway initially though now
   developing likely VAP, ppossibl aspiration, with thick/frequent sx
   needs
         reespiratory alkalosis
         doing well from oxygenation standpoint (30%) but with high MV
        continue on vent
         Adjust MV, treat pain and agitation
   #Afb/svt
review old ecgs to assess chronicity, appears mnainly afib,
   occasional paced beats, and ectopy
                     continue dig, check level
   #Advanced malignancy
palliative xrt if stabilzes/ continue decadron
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2161-3-14**] 10:17 PM
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-03-17 07:56:00 Physician Resident Progress Note
Chief Complaint: Hematemesis
   24 Hour Events:
   - Q4 HCTs have been stable ( 30-28.8-29 )
   - resp alkalosis, overbreathing vent, increased sedation
   - hemodynamically stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-3-15**] 02:00 AM
   Vancomycin - [**2161-3-15**] 02:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-17**] 02:03 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: intubated
   Gastrointestinal: melena
   Genitourinary: Foley
   Flowsheet Data as of  [**2161-3-17**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.1
C (97
   HR: 87 (74 - 113) bpm
   BP: 103/63(73) {84/47(57) - 129/66(82)} mmHg
   RR: 25 (22 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 80 kg
    CVP: 6 (3 - 16)mmHg
   Total In:
                                                                  1,562 mL
                                                                    371 mL
   PO:
   TF:
   IVF:
                                                                  1,562 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  1,923 mL
                                                                    536 mL
   Urine:
                                                                  1,423 mL
                                                                    536 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -361 mL
                                                                   -165 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 35 cmH2O
   Plateau: 15 cmH2O
   SpO2: 96%
   ABG: 7.45/27/118/17/-2
   Ve: 13.3 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: No acute distress, tachypnic , bucking vent
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: b/l)
   Abdominal: No(t) Distended, Tender: throughout
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   124 K/uL
   9.8 g/dL
   119 mg/dL
   1.6 mg/dL
   17 mEq/L
   3.9 mEq/L
   40 mg/dL
   118 mEq/L
   145 mEq/L
   28.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2161-3-15**]  11:34 PM
                             [**2161-3-16**]  04:14 AM
                             [**2161-3-16**]  04:26 AM
                             [**2161-3-16**]  10:30 AM
                             [**2161-3-16**]  02:22 PM
                             [**2161-3-16**]  06:47 PM
                             [**2161-3-16**]  07:53 PM
                             [**2161-3-16**]  10:49 PM
                             [**2161-3-17**]  05:21 AM
                             [**2161-3-17**]  05:38 AM
   WBC
   14.7
   13.8
   Hct
   32.2
   30.6
   29.5
   30.8
   28.8
   29.0
   28.3
   Plt
   124
   109
   124
   Cr
   1.5
   1.6
   1.6
   TCO2
   18
   19
   19
   Glucose
   108
   117
   121
   119
   Other labs: PT / PTT / INR:13.0/29.0/1.1, CK / CKMB /
   Troponin-T:40/2/0.02, Differential-Neuts:96.2 %, Band:0.0 %, Lymph:2.1
   %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Ca++:7.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: freeCa:1.02
   Imaging: FINDINGS:  In comparison with study of [**2161-3-15**], there is
   little change in
   the appearance of the endotracheal tube, nasogastric tube, central
   catheter,
   or the pacemaker leads.  The hemidiaphragms are now much more sharply
   seen,
   consistent with some clearing of bibasilar atelectatic change.  Mild
   fullness
   of pulmonary vessels suggests some underlying elevated pulmonary venous
   pressure.
   The somewhat ill-defined area of increased opacification at the left
   base
   laterally is again seen.
   TTE:  Left ventricular wall thicknesses are normal. The left
   ventricular cavity is unusually small. There is mild regional left
   ventricular systolic dysfunction with thinning and near akinesis of the
   basal to mid inferior and inferolateral walls. The ascending aorta is
   mildly dilated. The number of aortic valve leaflets cannot be
   determined. The aortic valve leaflets are mildly thickened. There is
   mild aortic valve stenosis (area 1.2-1.9cm2). No aortic regurgitation
   is seen. The mitral valve leaflets are mildly thickened. There is no
   mitral valve prolapse. The pulmonary artery systolic pressure could not
   be determined.
   Compared with the prior study (images reviewed) of [**2161-3-12**], the
   findings are similar.
   Microbiology: Sputum CX:  GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
    BCX all pending
   Assessment and Plan
   Mr. [**Known lastname 237**] is an 86 yo male with h/o CAD s/p stent, SVT s/p pacer, AAA
   repair, recently diagnosed metastatic lung CA who is transferred to
   [**Hospital Unit Name 1**] with coffee-ground emesis x 2 days.
   .
   1) GI bleed: Actively bleeding with hematocrit drop from 35 -> 23 over
   36 hours.  Suspect UGI source given coffee-ground emesis, although NG
   lavage not performed.  Differential includes radiation-induced
   gastritis vs. PUD vs. [**Doctor First Name 241**]-[**Doctor Last Name 37**] tear.
   Now s/p urgent endoscopy with injection of epinephrine around large
   clot in duodenal bulb.
   - Erythromycin prior to endoscopy
   - D/c
d ASA, Plavix, Lovenox
   - Transfuse 2 units overnight, will continue to transfuse for HCT<28
   - q4 hour hematocrits
   - Active T&C
   - Protonix  gtt, consider switching to qdaily dosing
   - large bore IV access placed, will keep cordis in for today, if HCT
   stable can remove
   - NPO
   - f/u GI recs
   .
   # Respiratory Failure
 Pt Intubated for endoscopy, was difficult to
   intubate so remained intubated overnight in case  that further
   intervention was required.  CXR [**3-15**] showed evidence of possible new
   bibasilar lung process concerning for PNA.  Pt now has copius thick
   yellow secretions requiring hourly suction.  RSBI 69 this am.  Question
   of new PNA perhaps [**2-14**] aspiration v other infectious etiology
   - continue vanc and zosyn
   - will hold off on extubation for now
   - will switch propofol to fentanyl/midazolam.
   .
   2) Acute renal failure: Creatinine increased to 1.6 since prior day
   from a baseline of 1.0, possible prerenal etiology in the setting of
   emesis and hypovolemia.  However, FeNA 1.6 with anion gap if 44
   suggestive of possible RTA
   - IVF and blood for hydration
   - Renally dose medications
   - monitor urine output
   .
   3) Tachyarrhythmia: Patient with known h/o SVT, with pacer, now
   presents in rapid afib in the setting of volume depletion.
   - anti-hypertensive agents contraindicated while HD unstable
   - rehydration + IV digoxin load for rate control
   - contact[**Name (NI) **] cards over weekend, felt rhythm to be afib with ectopy and
   believed pacer to be functioning adequately
   - pt followed by Dr. [**First Name (STitle) 264**] as [**Last Name (LF) 265**], [**First Name3 (LF) **] contact today for further
   evaluation and possible interrogation of pacer
   4) Squamous Cell Lung CA:  Stage IV disease with known metastates to
   vertebrae.  Patient is currently undergoing palliative XRT, most
   recently on [**3-9**].
   - continue decadron 6mg
   - will discuss steroid taper with RadOnc
   - heme onc rec
   .
   5) Coronary Artery Disease: currently stable
   - discontinue ASA, Plavix in the setting of active GIB
   - hold Nifedipine in the setting of HD instability-- > restart today
   - Continue Atorvastatin
   .
   6) Mental status changes: This was original reason for admission.
   Patient now minimally responsive in the setting of active
   resuscitation.  Per previous notes, Oncology team was considering
   dehydration vs. over-medication vs. infection.  Infectious work-up has
   been negative to date.   CT head negative for acute process or e/o
   metastatic disease.
   - Plan to reassess this issue following resolution of acute
   decompensation
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2161-3-14**] 10:17 PM
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI gtt
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2161-03-17 07:56:00 Physician Resident Progress Note
Chief Complaint: Hematemesis
   24 Hour Events:
   - Q4 HCTs have been stable ( 30-28.8-29 )
   - resp alkalosis, overbreathing vent, increased sedation
   - hemodynamically stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-3-15**] 02:00 AM
   Vancomycin - [**2161-3-15**] 02:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-17**] 02:03 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: intubated
   Gastrointestinal: melena
   Genitourinary: Foley
   Flowsheet Data as of  [**2161-3-17**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.1
C (97
   HR: 87 (74 - 113) bpm
   BP: 103/63(73) {84/47(57) - 129/66(82)} mmHg
   RR: 25 (22 - 34) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 80 kg
    CVP: 6 (3 - 16)mmHg
   Total In:
                                                                  1,562 mL
                                                                    371 mL
   PO:
   TF:
   IVF:
                                                                  1,562 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  1,923 mL
                                                                    536 mL
   Urine:
                                                                  1,423 mL
                                                                    536 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -361 mL
                                                                   -165 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI Deferred: RR >35
   PIP: 35 cmH2O
   Plateau: 15 cmH2O
   SpO2: 96%
   ABG: 7.45/27/118/17/-2
   Ve: 13.3 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: No acute distress, tachypnic , bucking vent
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: b/l)
   Abdominal: No(t) Distended, Tender: throughout
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   124 K/uL
   9.8 g/dL
   119 mg/dL
   1.6 mg/dL
   17 mEq/L
   3.9 mEq/L
   40 mg/dL
   118 mEq/L
   145 mEq/L
   28.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2161-3-15**]  11:34 PM
                             [**2161-3-16**]  04:14 AM
                             [**2161-3-16**]  04:26 AM
                             [**2161-3-16**]  10:30 AM
                             [**2161-3-16**]  02:22 PM
                             [**2161-3-16**]  06:47 PM
                             [**2161-3-16**]  07:53 PM
                             [**2161-3-16**]  10:49 PM
                             [**2161-3-17**]  05:21 AM
                             [**2161-3-17**]  05:38 AM
   WBC
   14.7
   13.8
   Hct
   32.2
   30.6
   29.5
   30.8
   28.8
   29.0
   28.3
   Plt
   124
   109
   124
   Cr
   1.5
   1.6
   1.6
   TCO2
   18
   19
   19
   Glucose
   108
   117
   121
   119
   Other labs: PT / PTT / INR:13.0/29.0/1.1, CK / CKMB /
   Troponin-T:40/2/0.02, Differential-Neuts:96.2 %, Band:0.0 %, Lymph:2.1
   %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Ca++:7.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: freeCa:1.02
   Imaging: FINDINGS:  In comparison with study of [**2161-3-15**], there is
   little change in
   the appearance of the endotracheal tube, nasogastric tube, central
   catheter,
   or the pacemaker leads.  The hemidiaphragms are now much more sharply
   seen,
   consistent with some clearing of bibasilar atelectatic change.  Mild
   fullness
   of pulmonary vessels suggests some underlying elevated pulmonary venous
   pressure.
   The somewhat ill-defined area of increased opacification at the left
   base
   laterally is again seen.
   TTE:  Left ventricular wall thicknesses are normal. The left
   ventricular cavity is unusually small. There is mild regional left
   ventricular systolic dysfunction with thinning and near akinesis of the
   basal to mid inferior and inferolateral walls. The ascending aorta is
   mildly dilated. The number of aortic valve leaflets cannot be
   determined. The aortic valve leaflets are mildly thickened. There is
   mild aortic valve stenosis (area 1.2-1.9cm2). No aortic regurgitation
   is seen. The mitral valve leaflets are mildly thickened. There is no
   mitral valve prolapse. The pulmonary artery systolic pressure could not
   be determined.
   Compared with the prior study (images reviewed) of [**2161-3-12**], the
   findings are similar.
   Microbiology: Sputum CX:  GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
    BCX all pending
   Assessment and Plan
   Mr. [**Known lastname 237**] is an 86 yo male with h/o CAD s/p stent, SVT s/p pacer, AAA
   repair, recently diagnosed metastatic lung CA who is transferred to
   [**Hospital Unit Name 1**] with coffee-ground emesis x 2 days.
   .
   1) GI bleed: Actively bleeding with hematocrit drop from 35 -> 23 over
   36 hours.  Suspect UGI source given coffee-ground emesis, although NG
   lavage not performed.  Now s/p urgent endoscopy with injection of
   epinephrine around large clot in duodenal bulb.
   - Erythromycin prior to endoscopy
   - D/c
d ASA, Plavix, Lovenox
   - hct has held stable over last 2 days
   - q12 hour hematocrits
   - Active T&C
   - Protonix  gtt, now switching to [**Hospital1 7**] bolus dosing
   - large bore IV access placed, will d/c cordis today as hct has
   remained stable, making likelihood of need for rapid fluid resusitation
   unlikely
   - will start on TF
   - f/u GI recs
   .
   # Respiratory Failure
 Pt Intubated for endoscopy, was difficult to
   intubate so remained intubated overnight in case  that further
   intervention was required.  CXR [**3-15**] showed evidence of possible new
   bibasilar lung process concerning for PNA.  Pt now has copius thick
   yellow secretions requiring hourly suction.  Sputum Cx positive for
   GNR.   Likely new PNA perhaps [**2-14**] aspiration v other infectious
   etiology
   - continue vanc and zosyn
   - will hold off on extubation for now
   - will switch propofol to fentanyl/midazolam.
   .
   2) Acute renal failure: Creatinine increased to 1.6 since prior day
   from a baseline of 1.0, possible prerenal etiology in the setting of
   emesis and hypovolemia.  However, FeNA 1.6 with anion gap if 44
   suggestive of possible RTA
   - IVF and blood for hydration
   - Renally dose medications
   - monitor urine output
   .
   3) Tachyarrhythmia: Patient with known h/o SVT, with pacer, now
   presents in rapid afib in the setting of volume depletion.
   - anti-hypertensive agents contraindicated while HD unstable
   - rehydration + IV digoxin load for rate control
   - contact[**Name (NI) **] cards over weekend, felt rhythm to be afib with ectopy and
   believed pacer to be functioning adequately
   4) Squamous Cell Lung CA:  Stage IV disease with known metastates to
   vertebrae.  Patient is currently undergoing palliative XRT, most
   recently on [**3-9**].
   - continue decamethasone 6mg [**Hospital1 7**]
   - will discuss steroid taper with RadOnc
   - heme onc rec
   .
   5) Coronary Artery Disease: currently stable
   - discontinue ASA, Plavix in the setting of active GIB
   - hold Nifedipine in the setting of HD instability-- > restart today
   - Continue Atorvastatin
   .
   6) Mental status changes: This was original reason for admission.
   Patient now minimally responsive in the setting of active
   resuscitation.  Per previous notes, Oncology team was considering
   dehydration vs. over-medication vs. infection.  Infectious work-up has
   been negative to date.   CT head negative for acute process or e/o
   metastatic disease.
   - Plan to reassess this issue following resolution of acute
   decompensation
   7)Abdominal pain:  Unclear cause.  [**Month (only) 51**] be steroid induced gastritis vs.
   pain from duodenal ulcer vs. ulcer perforation vs. worsened AAA vs. abd
   infection.  Will check amylase and lipase, get a KUB to evaluate for
   free air and persue an abd CT.
   ICU Care
   Nutrition:
   Comments: NPO, will start TF today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2161-3-14**] 10:17 PM
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI gtt, switching to q12 IV boluses
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2161-03-17 11:37:00 Physician Attending Progress Note
Chief Complaint: UGIB, hypotension, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca
   geting palliative xrt, admitted initially from NH on [**3-10**] for lethargy
   and confusion, felt [**2-14**] medications/narcotics, with additional
   infectious work up pursued, transferred to MICU for UGI from large DU
   c/b hypotension, afib, intubated for egd,  with arf and thick
   secretions concerning for developing VAP/aspiration , with new abd pain
   24 Hour Events:
   -echo with no new findings, stable LV wall thickness and basal inf ak,
   reg sys dysfx
   -continues to pass melena
   - low grade temps
   - growing GNR from sputum
   - agitated on vent with alkalotic gases, improved some with pain and
   sedation
   History obtained from house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-3-15**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-17**] 02:03 AM
   Vancomycin - [**2161-3-17**] 10:29 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-17**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.2
C (97.2
   HR: 76 (74 - 113) bpm
   BP: 117/61(79) {85/48(61) - 155/81(104)} mmHg
   RR: 22 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 80 kg
   Height: 66 Inch
   CVP: 6 (3 - 16)mmHg
   Total In:
                                                                  1,562 mL
                                                                    647 mL
   PO:
   TF:
   IVF:
                                                                  1,562 mL
                                                                    647 mL
   Blood products:
   Total out:
                                                                  1,923 mL
                                                                    736 mL
   Urine:
                                                                  1,423 mL
                                                                    736 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -361 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 107
   RSBI Deferred: RR >35
   PIP: 15 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.45/27/118/17/-2
   Ve: 15.4 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender R > L, +
   guarding: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   124 K/uL
   119 mg/dL
   1.6 mg/dL
   17 mEq/L
   3.9 mEq/L
   40 mg/dL
   118 mEq/L
   145 mEq/L
   28.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2161-3-15**]  11:34 PM
                             [**2161-3-16**]  04:14 AM
                             [**2161-3-16**]  04:26 AM
                             [**2161-3-16**]  10:30 AM
                             [**2161-3-16**]  02:22 PM
                             [**2161-3-16**]  06:47 PM
                             [**2161-3-16**]  07:53 PM
                             [**2161-3-16**]  10:49 PM
                             [**2161-3-17**]  05:21 AM
                             [**2161-3-17**]  05:38 AM
   WBC
   14.7
   13.8
   Hct
   32.2
   30.6
   29.5
   30.8
   28.8
   29.0
   28.3
   Plt
   124
   109
   124
   Cr
   1.5
   1.6
   1.6
   TCO2
   18
   19
   19
   Glucose
   108
   117
   121
   119
   Other labs: PT / PTT / INR:13.0/29.0/1.1, CK / CKMB /
   Troponin-T:40/2/0.02, Differential-Neuts:96.2 %, Band:0.0 %, Lymph:2.1
   %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Ca++:7.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Imaging: cxr--stable haxiness at bases, no new focal finding, et ok, L
   ij difficult to appreciate
   Microbiology: sputum--pan [**Last Name (un) 270**] kleb
   blood pending
   Assessment and Plan
   86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca
   geting palliative xrt, admitted initially from NH on [**3-10**] for lethargy
   and confusion, felt [**2-14**] medications/narcotics, with additional
   infectious work up pursued, transferred to MICU for UGI from large DU
   c/b hypotension, afib, intubated for egd, now with worsening arf and
   thick secretions concerning for developing VAP/aspiration, with new abd
   pain
   Main issues include:
   #abd pain--new, on steroids, most concerning for possible perf/
   post-scope complication, triple a rupture less concerning given
   stability of hct and hemodynamics
       - Check  KUB, then obtain CT abd (without contrast, given renal
   failure), serial exams, lft's, repeat blood cx's
   # UGIB
from DU, h/h remain stable
follow  [**Hospital1 7**]
                  Transfuse for active bleed or < 26
                  Change ggt to IV PPI, gi continues to follow with no
   plans at this time to rescope
   # ARF-likely atn from hypovolemia/hypotension,
               renally dose meds
               cr improving with increased  u/o--will continue to follow
   # Pna--pan [**Doctor Last Name **] kleb in sputum, blood with ngtd, continue zosyn given
   abd pain but can d/c vanco
   #  Hypotension/shock - sepsis--improving, HD stabilization, never
   requiring pressor support, no evidence of cardiac ischemia neg cardiac
   enzymes or change in echo
        antibx as above
        Continue current dose of decadron  pending rad onc input about
   ongoing need or taper
    # Respiratory failure--intubated for airway initially though now
   developing  VAP, possible aspiration,
         Still with significant vent suppor and RSBI 105, improving
   secretions, continues to do well from oxygenation stand point
         Respiratory alkalosis
 adjust MV can decrease TV, treat pain and
   agitation,
         Continue on vent
   #Afb/svt
continue dig, check level
   # CAD--holding asa and plavix in setting of GIB, bp stabile
   # Advanced malignancy
palliative xrt if stabilzes/ continue decadron
   (talk to rad onc about need verses taper)
   ICU Care
   Nutrition:
   Comments: NPO
pending additonal evaluation with abd ct
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2161-3-14**] 10:17 PM
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Comments: d/c fem line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI--change to IV from ggt
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-03-17 11:37:00 Physician Attending Progress Note
Chief Complaint: UGIB, hypotension, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   echo with no new findings, stable LV wall thickness and basal inf ak,
   reg sys dysfx
   continues to have melena
   low grade temps
   GNR from sputum
   agitated on vent with alkalotic gases, improved some with pain and
   sedation emds
   History obtained from house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2161-3-15**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-17**] 02:03 AM
   Vancomycin - [**2161-3-17**] 10:29 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-17**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.2
C (97.2
   HR: 76 (74 - 113) bpm
   BP: 117/61(79) {85/48(61) - 155/81(104)} mmHg
   RR: 22 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 80 kg
   Height: 66 Inch
   CVP: 6 (3 - 16)mmHg
   Total In:
                                                                  1,562 mL
                                                                    647 mL
   PO:
   TF:
   IVF:
                                                                  1,562 mL
                                                                    647 mL
   Blood products:
   Total out:
                                                                  1,923 mL
                                                                    736 mL
   Urine:
                                                                  1,423 mL
                                                                    736 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -361 mL
                                                                    -89 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 107
   RSBI Deferred: RR >35
   PIP: 15 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.45/27/118/17/-2
   Ve: 15.4 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   124 K/uL
   119 mg/dL
   1.6 mg/dL
   17 mEq/L
   3.9 mEq/L
   40 mg/dL
   118 mEq/L
   145 mEq/L
   28.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2161-3-15**]  11:34 PM
                             [**2161-3-16**]  04:14 AM
                             [**2161-3-16**]  04:26 AM
                             [**2161-3-16**]  10:30 AM
                             [**2161-3-16**]  02:22 PM
                             [**2161-3-16**]  06:47 PM
                             [**2161-3-16**]  07:53 PM
                             [**2161-3-16**]  10:49 PM
                             [**2161-3-17**]  05:21 AM
                             [**2161-3-17**]  05:38 AM
   WBC
   14.7
   13.8
   Hct
   32.2
   30.6
   29.5
   30.8
   28.8
   29.0
   28.3
   Plt
   124
   109
   124
   Cr
   1.5
   1.6
   1.6
   TCO2
   18
   19
   19
   Glucose
   108
   117
   121
   119
   Other labs: PT / PTT / INR:13.0/29.0/1.1, CK / CKMB /
   Troponin-T:40/2/0.02, Differential-Neuts:96.2 %, Band:0.0 %, Lymph:2.1
   %, Mono:1.6 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Ca++:7.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Imaging: cxr--stable haxiness at bases, no new focal finding, et ok, L
   ij difficult to appreciate
   Microbiology: sputum--pan [**Last Name (un) 270**] kleb
   blood pending
   Assessment and Plan
   86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca
   geting palliative xrt, admitted initially from NH on [**3-10**] for lethargy
   and confusion, felt [**2-14**] medications/narcotics, with additional
   infectious work up pursued, transferred to MICU for UGI from large DU
   c/b hypotension, afib, intubated for egd, now with worsening arf and
   thick secretions concerning for developing VAP/aspiration and ARF, with
   new abd pain
   Main issues include:
   #abd pain--new, on steroids, has known triple a, but msot concerning
   for possible perf/ post-scope complication, triple a rupture less
   concerning
        KUB, then CT abd (without contrast, given renal failure), serial
   exams, lft's, repeat blood cx's
   # UGIB
from DU, h/h stable will check [**Hospital1 7**]
                  Transfuse for active bleed or < 26
                  Change IV PPI, gi continues to follow with no plans at
   this time to re-egd
   # ARF-likely atn from hypovolemia/hypotension,
              ? RTA with mixed acid base--resp alk and met acidosis,
               renally dose meds
               cr stable and now with improving u/o--will continue to
   follow
   # Pna--pan [**Doctor Last Name **] kleb in sputum, nothing in blood, would taper
   antibx-->d/c vanco,  continue zosyn
   #  Hypotension/shock - sepsis--improving, HD stabilization, never
   requiring pressor support, no evidence of cardiac ischemia neg cardiac
   enzymes or chnage in echo
        antibx as above
        Continue current dose of decadron
    #Respiratory failure--intubated for airway initially though now
   developing  VAP, possible aspiration,
         Still with significant vent suppor and RSBI 105, improving
   secretions, continues to do well from oxygenation stand point
         Respiratory alkalosis
 adjust MV can decrease TV, treat pain and
   agitation
         Continue on vent
   #Afb/svt
review of old ecgs to shows that afib is not new,
                     continue dig, check level
                      ep about pacer
   # CAD--holding asa and plavix in setting of GIB
   #Advanced malignancy
palliative xrt if stabilzes/ continue decadron
   (talk to rad onc about need verses taper)
   ICU Care
   Nutrition:
   Comments: NPO--start TF's
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Cordis/Introducer - [**2161-3-14**] 10:17 PM
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Comments: d/c fem line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI--change to IV from ggt
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2161-03-18 07:13:00 Physician Resident Progress Note
Chief Complaint: hematemesis
   24 Hour Events:
   -- patient started on TF
   -- cordis d/c'd; tip sent for culture
   -- CT scan showed perforation of duodenal ulcer w/ free air in the
   peritoneum
   -- Gen surgery c/s, family wanted everything done, patient taken to OR
   emergently
   -- NG tube found to have threaded through perforated small bowel, w/
   significant leakage of GI contents.  Patch procedure was performed,
   peritoneal washout, placement of J and G tubes.  Stress dose steroids
   and pressors were given during the procedure.
   -- patient quickly became hypotensive after the surgery to SBP of 78,
   aggressivly resusitated w/ fluids receiving 6L.  Had a pH of 7.14,
   lactate of 2.4, improved w/ fluids.
   -- decreased steroids as part of taper, received stress dose in OR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-17**] 02:03 AM
   Vancomycin - [**2161-3-17**] 10:29 AM
   Meropenem - [**2161-3-18**] 01:01 AM
   Fluconazole - [**2161-3-18**] 01:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-3-18**] 12:36 AM
   Pantoprazole (Protonix) - [**2161-3-18**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Edema, Tachycardia
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Neurologic: sedated
   Flowsheet Data as of  [**2161-3-18**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 94 (73 - 109) bpm
   BP: 146/82(105) {96/59(74) - 155/88(109)} mmHg
   RR: 22 (7 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 80 kg
   Height: 66 Inch
    CVP: 15 (9 - 16)mmHg
   Total In:
                                                                  2,821 mL
                                                                 10,518 mL
   PO:
   TF:
   IVF:
                                                                  1,821 mL
                                                                  9,768 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,301 mL
                                                                    584 mL
   Urine:
                                                                  1,196 mL
                                                                     64 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                    105 mL
                                                                    315 mL
   Balance:
                                                                  1,520 mL
                                                                  9,934 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.30/29/159/14/-10
   Ve: 12.5 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: No acute distress, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) Pupils dilated
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   high pitch weeze of suction, L > R
   Abdominal: Soft, No(t) Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Cool, moddled
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   111 K/uL
   12.3 g/dL
   138 mg/dL
   1.6 mg/dL
   14 mEq/L
   4.4 mEq/L
   35 mg/dL
   117 mEq/L
   138 mEq/L
   34
   12.7 K/uL
        [image002.jpg]
                             [**2161-3-17**]  08:35 PM
                             [**2161-3-17**]  09:53 PM
                             [**2161-3-17**]  10:50 PM
                             [**2161-3-17**]  11:40 PM
                             [**2161-3-18**]  12:32 AM
                             [**2161-3-18**]  02:18 AM
                             [**2161-3-18**]  03:30 AM
                             [**2161-3-18**]  03:44 AM
                             [**2161-3-18**]  05:55 AM
                             [**2161-3-18**]  06:19 AM
   WBC
   11.9
   12.7
   Hct
   31
   35
   36.0
   36.4
   34
   Plt
   116
   111
   Cr
   1.4
   1.6
   TropT
   0.05
   0.29
   TCO2
   16
   17
   18
   15
   14
   15
   15
   Glucose
   105
   121
   122
   128
   138
   Other labs: PT / PTT / INR:13.3/25.4/1.1, CK / CKMB /
   Troponin-T:39/4/0.29, ALT / AST:77/64, Alk Phos / T Bili:140/1.2,
   Amylase / Lipase:57/17, Differential-Neuts:96.2 %, Band:0.0 %,
   Lymph:2.1 %, Mono:1.6 %, Eos:0.0 %, Fibrinogen:597 mg/dL, Lactic
   Acid:2.3 mmol/L, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:5.4
   mg/dL
   Fluid analysis / Other labs: Ph 7.30
   pCO2 29
   pO2 159
   HCO315
   Lactate:2.3
   pH 7.14
    pCO2 51
   pO2 150
   HCO3 18
   BaseXS -11
   Imaging: IMPRESSION:
   1.  Pneumoperitoneum and  fluid accumulation adjacent to the second
   part of
   the duodenum, which extends into the right anterior pararenal spaces,
   are
   suggestive of perforation of ulcer of second part of duodenum.
   2.  Interval development of complete collapse of L4 lumbar vertebra and
   interval decrease in the soft tissue mass of the pedicle of L4.  As no
   IV
   contrast has been used, assessment of thecal sac compression cannot be
   performed.
   3.  Diverticulosis with no evidence of diverticulitis.
   4. Interval development of high density mass in right adrenal gland in
   1 month
   is suggestive of either benign etiologies such as hematoma or
   metastatic
   disease ( underlyng small cell lung cancer) .
   IMPRESSION:  No large amount of free intraperitoneal air identified.
   If
   clinical suspicion is high, decubitus film or standing upright film is
   recommended.
   FINDINGS:  In comparison with study of [**2161-3-15**], there is little
   change in
   the appearance of the endotracheal tube, nasogastric tube, central
   catheter,
   or the pacemaker leads.  The hemidiaphragms are now much more sharply
   seen,
   consistent with some clearing of bibasilar atelectatic change.  Mild
   fullness
   of pulmonary vessels suggests some underlying elevated pulmonary venous
   pressure.
   The somewhat ill-defined area of increased opacification at the left
   base
   laterally is again seen.
   Microbiology:  KLEBSIELLA PNEUMONIAE
                                |
   AMPICILLIN/SULBACTAM--     4 S
   CEFAZOLIN-------------   <=4 S
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CEFUROXIME------------     4 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
 Assessment and Plan
   Mr. [**Known lastname 237**] is an 86 yo male with h/o CAD s/p stent, SVT s/p pacer, AAA
   repair, recently diagnosed metastatic lung CA who is transferred to
   [**Hospital Unit Name 1**] with coffee-ground emesis x 2 days.
   .
   1) Duodenal Perforation:  s/p emergent surgery.  Currently
   hemodynamically stable, w/ drains reportedly w/ expected output.
   Degree of abdominal tenderness on exam significantly improved.
         - Patient to continue vanc/meropenem for coverage of GI
   infectious catastrophy in ICU setting.  Will
   .
 check q4h hct
   - keep patient NPO
   2) Hemodynamic Instability:  Patient required significant fluid
   resuscitation following the OR, with now adequate blood pressures.  HR
   remains stable.  With fluid resuscitation patient has shown improvement
   of metabolic acidosis.  Feel that patient is now adequately
   resuscitated.  Continues to monitor pressures, check serial hct, serial
   physical exams, and ABGs.
   # Respiratory Failure
 Pt Intubated for endoscopy, was difficult to
   intubate so remained intubated overnight in case  that further
   intervention was required.  CXR [**3-15**] showed evidence of possible new
   bibasilar lung process concerning for PNA.  Pt now has copius thick
   yellow secretions requiring hourly suction.  Sputum Cx positive for
   GNR.   Likely new PNA perhaps [**2-14**] aspiration v other infectious
   etiology
   - continue vanc and meropenem
   - will hold off on extubation for now
   - continue to adjust vent settings w/ ABG in response to metabolic
   derangements
   - will switch propofol to fentanyl/midazolam, titrate up for better
   sedation.  Feel that some degree of hypertension is agitation
   related..
   .
   #) Acute renal failure: Creatinine increased to 1.6 since prior day
   from a baseline of 1.0, possible prerenal etiology in the setting of
   emesis and hypovolemia.  Despite aggressive hydration, has not show any
   improvement.  Likely ATN with patient that is now anuric..
   - continue to trend Cr
   -renaly dose all meds
   .
   #) Tachyarrhythmia: Patient with known h/o SVT, with pacer, now
   presents in rapid afib in the setting of volume depletion, which
   resolved w/ fluids.
   - rehydration + IV digoxin load for rate control
   - contact[**Name (NI) **] cards over weekend, felt rhythm to be afib with ectopy and
   believed pacer to be functioning adequately
   - nature of pacer firing different following OR, and was turned off
   during procedure, have EP interrogate pace to see if firiting adequatly
   4) Squamous Cell Lung CA:  Stage IV disease with known metastates to
   vertebrae.  Patient is currently undergoing palliative XRT, most
   recently on [**3-9**].
   - continue decamethasone 4mg [**Hospital1 7**], and down titrate to 2mg tomorrw
   - no role for chemo in this critically ill patient.
   5) Coronary Artery Disease: currently stable
   - discontinue ASA, Plavix in the setting of active GIB
   - hold Nifedipine in the setting of HD instability
   - rise in troponins likely from [**Last Name (un) 283**] ischemia w/ renal failure, as
   ration not elevated.  Continue to trend cardiac enzymes, no evidence of
   MI on EKG.
   ICU Care
   Nutrition:
   Comments: NPO, advanced by GS, nutrition c/s for TPN recs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2161-03-18 07:13:00 Physician Resident Progress Note
Chief Complaint: hematemesis
   24 Hour Events:
   -- patient started on TF
   -- cordis d/c'd; tip sent for culture
   -- CT scan showed perforation of duodenal ulcer w/ free air in the
   peritoneum
   -- Gen surgery c/s, family wanted everything done, patient taken to OR
   emergently
   -- NG tube found to have threaded through perforated small bowel, w/
   significant leakage of GI contents
   -- patient quickly became hypotensive after the surgery to SBP of 78,
   aggressivly resusitated w/ fluids receiving 6L.  Had a pH of 7.14,
   lactate of 2.4, improved w/ fluids.
   -- decreased steroids as part of taper, received stress dose in OR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-17**] 02:03 AM
   Vancomycin - [**2161-3-17**] 10:29 AM
   Meropenem - [**2161-3-18**] 01:01 AM
   Fluconazole - [**2161-3-18**] 01:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-3-18**] 12:36 AM
   Pantoprazole (Protonix) - [**2161-3-18**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Edema, Tachycardia
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Neurologic: sedated
   Flowsheet Data as of  [**2161-3-18**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 94 (73 - 109) bpm
   BP: 146/82(105) {96/59(74) - 155/88(109)} mmHg
   RR: 22 (7 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 80 kg
   Height: 66 Inch
    CVP: 15 (9 - 16)mmHg
   Total In:
                                                                  2,821 mL
                                                                 10,518 mL
   PO:
   TF:
   IVF:
                                                                  1,821 mL
                                                                  9,768 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,301 mL
                                                                    584 mL
   Urine:
                                                                  1,196 mL
                                                                     64 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                    105 mL
                                                                    315 mL
   Balance:
                                                                  1,520 mL
                                                                  9,934 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.30/29/159/14/-10
   Ve: 12.5 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: No acute distress, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) Pupils dilated
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   high pitch weeze of suction, L > R
   Abdominal: Soft, No(t) Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Cool, moddled
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   111 K/uL
   12.3 g/dL
   138 mg/dL
   1.6 mg/dL
   14 mEq/L
   4.4 mEq/L
   35 mg/dL
   117 mEq/L
   138 mEq/L
   34
   12.7 K/uL
        [image002.jpg]
                             [**2161-3-17**]  08:35 PM
                             [**2161-3-17**]  09:53 PM
                             [**2161-3-17**]  10:50 PM
                             [**2161-3-17**]  11:40 PM
                             [**2161-3-18**]  12:32 AM
                             [**2161-3-18**]  02:18 AM
                             [**2161-3-18**]  03:30 AM
                             [**2161-3-18**]  03:44 AM
                             [**2161-3-18**]  05:55 AM
                             [**2161-3-18**]  06:19 AM
   WBC
   11.9
   12.7
   Hct
   31
   35
   36.0
   36.4
   34
   Plt
   116
   111
   Cr
   1.4
   1.6
   TropT
   0.05
   0.29
   TCO2
   16
   17
   18
   15
   14
   15
   15
   Glucose
   105
   121
   122
   128
   138
   Other labs: PT / PTT / INR:13.3/25.4/1.1, CK / CKMB /
   Troponin-T:39/4/0.29, ALT / AST:77/64, Alk Phos / T Bili:140/1.2,
   Amylase / Lipase:57/17, Differential-Neuts:96.2 %, Band:0.0 %,
   Lymph:2.1 %, Mono:1.6 %, Eos:0.0 %, Fibrinogen:597 mg/dL, Lactic
   Acid:2.3 mmol/L, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:5.4
   mg/dL
   Fluid analysis / Other labs: Ph 7.30
   pCO2 29
   pO2 159
   HCO315
   Lactate:2.3
   pH 7.14
    pCO2 51
   pO2 150
   HCO3 18
   BaseXS -11
   Imaging: IMPRESSION:
   1.  Pneumoperitoneum and  fluid accumulation adjacent to the second
   part of
   the duodenum, which extends into the right anterior pararenal spaces,
   are
   suggestive of perforation of ulcer of second part of duodenum.
   2.  Interval development of complete collapse of L4 lumbar vertebra and
   interval decrease in the soft tissue mass of the pedicle of L4.  As no
   IV
   contrast has been used, assessment of thecal sac compression cannot be
   performed.
   3.  Diverticulosis with no evidence of diverticulitis.
   4. Interval development of high density mass in right adrenal gland in
   1 month
   is suggestive of either benign etiologies such as hematoma or
   metastatic
   disease ( underlyng small cell lung cancer) .
   IMPRESSION:  No large amount of free intraperitoneal air identified.
   If
   clinical suspicion is high, decubitus film or standing upright film is
   recommended.
   FINDINGS:  In comparison with study of [**2161-3-15**], there is little
   change in
   the appearance of the endotracheal tube, nasogastric tube, central
   catheter,
   or the pacemaker leads.  The hemidiaphragms are now much more sharply
   seen,
   consistent with some clearing of bibasilar atelectatic change.  Mild
   fullness
   of pulmonary vessels suggests some underlying elevated pulmonary venous
   pressure.
   The somewhat ill-defined area of increased opacification at the left
   base
   laterally is again seen.
   Microbiology:  KLEBSIELLA PNEUMONIAE
                                |
   AMPICILLIN/SULBACTAM--     4 S
   CEFAZOLIN-------------   <=4 S
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CEFUROXIME------------     4 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
 Assessment and Plan
   Mr. [**Known lastname 237**] is an 86 yo male with h/o CAD s/p stent, SVT s/p pacer, AAA
   repair, recently diagnosed metastatic lung CA who is transferred to
   [**Hospital Unit Name 1**] with coffee-ground emesis x 2 days.
   .
   1) GI bleed: Actively bleeding with hematocrit drop from 35 -> 23 over
   36 hours.  Suspect UGI source given coffee-ground emesis, although NG
   lavage not performed.  Now s/p urgent endoscopy with injection of
   epinephrine around large clot in duodenal bulb.
   - Erythromycin prior to endoscopy
   - D/c
d ASA, Plavix, Lovenox
   - hct has held stable over last 2 days
   - q12 hour hematocrits
   - Active T&C
   - Protonix  gtt, now switching to [**Hospital1 7**] bolus dosing
   - large bore IV access placed, will d/c cordis today as hct has
   remained stable, making likelihood of need for rapid fluid resusitation
   unlikely
   - will start on TF
   - f/u GI recs
   .
   # Respiratory Failure
 Pt Intubated for endoscopy, was difficult to
   intubate so remained intubated overnight in case  that further
   intervention was required.  CXR [**3-15**] showed evidence of possible new
   bibasilar lung process concerning for PNA.  Pt now has copius thick
   yellow secretions requiring hourly suction.  Sputum Cx positive for
   GNR.   Likely new PNA perhaps [**2-14**] aspiration v other infectious
   etiology
   - continue vanc and zosyn
   - will hold off on extubation for now
   - will switch propofol to fentanyl/midazolam.
   .
   2) Acute renal failure: Creatinine increased to 1.6 since prior day
   from a baseline of 1.0, possible prerenal etiology in the setting of
   emesis and hypovolemia.  However, FeNA 1.6 with anion gap if 44
   suggestive of possible RTA
   - IVF and blood for hydration
   - Renally dose medications
   - monitor urine output
   .
   3) Tachyarrhythmia: Patient with known h/o SVT, with pacer, now
   presents in rapid afib in the setting of volume depletion.
   - anti-hypertensive agents contraindicated while HD unstable
   - rehydration + IV digoxin load for rate control
   - contact[**Name (NI) **] cards over weekend, felt rhythm to be afib with ectopy and
   believed pacer to be functioning adequately
   4) Squamous Cell Lung CA:  Stage IV disease with known metastates to
   vertebrae.  Patient is currently undergoing palliative XRT, most
   recently on [**3-9**].
   - continue decamethasone 6mg [**Hospital1 7**]
   - will discuss steroid taper with RadOnc
   - heme onc rec
   .
   5) Coronary Artery Disease: currently stable
   - discontinue ASA, Plavix in the setting of active GIB
   - hold Nifedipine in the setting of HD instability-- > restart today
   - Continue Atorvastatin
   .
   6) Mental status changes: This was original reason for admission.
   Patient now minimally responsive in the setting of active
   resuscitation.  Per previous notes, Oncology team was considering
   dehydration vs. over-medication vs. infection.  Infectious work-up has
   been negative to date.   CT head negative for acute process or e/o
   metastatic disease.
   - Plan to reassess this issue following resolution of acute
   decompensation
   7)Abdominal pain:  Unclear cause.  [**Month (only) 51**] be steroid induced gastritis vs.
   pain from duodenal ulcer vs. ulcer perforation vs. worsened AAA vs. abd
   infection.  Will check amylase and lipase, get a KUB to evaluate for
   free air and persue an abd CT.
   ICU Care
   Nutrition:
   Comments: NPO, advanced by GS
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2161-03-18 09:43:00 Physician Attending Progress Note
Chief Complaint: Presented with bleeding duodenal ulcer now c/b
   perforation and s/p OR
   HPI:
   S/P omental patch required pressor support in OR, but off on return to
   [**Hospital Unit Name 1**]. Hypotenssive throughout the night, recieved a total of 7 L fluid.
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2161-3-17**] 12:17 PM
 OR SENT - At [**2161-3-17**] 06:45 PM
 OR RECEIVED - At [**2161-3-17**] 10:36 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-17**] 02:03 AM
   Vancomycin - [**2161-3-17**] 10:29 AM
   Meropenem - [**2161-3-18**] 01:01 AM
   Fluconazole - [**2161-3-18**] 01:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-3-18**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2161-3-18**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Genitourinary: decreased urine output
   Flowsheet Data as of  [**2161-3-18**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 82 (73 - 109) bpm
   BP: 123/77(93) {96/59(74) - 158/88(111)} mmHg
   RR: 17 (7 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 80 kg
   Height: 66 Inch
   CVP: 14 (9 - 16)mmHg
   Total In:
                                                                  2,821 mL
                                                                 10,863 mL
   PO:
   TF:
   IVF:
                                                                  1,821 mL
                                                                 10,113 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,301 mL
                                                                    747 mL
   Urine:
                                                                  1,196 mL
                                                                     97 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                    105 mL
                                                                    445 mL
   Balance:
                                                                  1,520 mL
                                                                 10,116 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.30/29/159/14/-10
   Ve: 10.9 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   111 K/uL
   138 mg/dL
   1.6 mg/dL
   14 mEq/L
   4.4 mEq/L
   35 mg/dL
   117 mEq/L
   138 mEq/L
   34
   12.7 K/uL
        [image002.jpg]
                             [**2161-3-17**]  08:35 PM
                             [**2161-3-17**]  09:53 PM
                             [**2161-3-17**]  10:50 PM
                             [**2161-3-17**]  11:40 PM
                             [**2161-3-18**]  12:32 AM
                             [**2161-3-18**]  02:18 AM
                             [**2161-3-18**]  03:30 AM
                             [**2161-3-18**]  03:44 AM
                             [**2161-3-18**]  05:55 AM
                             [**2161-3-18**]  06:19 AM
   WBC
   11.9
   12.7
   Hct
   31
   35
   36.0
   36.4
   34
   Plt
   116
   111
   Cr
   1.4
   1.6
   TropT
   0.05
   0.29
   TCO2
   16
   17
   18
   15
   14
   15
   15
   Glucose
   105
   121
   122
   128
   138
   Other labs: PT / PTT / INR:13.3/25.4/1.1, CK / CKMB /
   Troponin-T:39/4/0.29, ALT / AST:77/64, Alk Phos / T Bili:140/1.2,
   Amylase / Lipase:57/17, Differential-Neuts:96.2 %, Band:0.0 %,
   Lymph:2.1 %, Mono:1.6 %, Eos:0.0 %, Fibrinogen:597 mg/dL, Lactic
   Acid:2.3 mmol/L, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   #Perforated Duodenal Ulcer
   POD #1, currently hemoodynamically stable s/p agressive fluid
   resuscitation. On Vanc and Meropenem. Maintained NPO. Following
   lactate. Starting fluconazole today.
   Likely volume replete at this point, will aim TBB even.
   # Respiratory Failure
   Improved ventilation with increased tidal volume. Currently oxygenation
   stable, airway preassures stable. Covered for Kleb pneumonia.
 CANCER (MALIGNANT NEOPLASM), LUNG
   Continues on steroid taper as per rad onc. recieved stress dose
   steroids in the OR. Will taper aggresively. Now on 2 q12.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Hct q8hrs, holding ASA,plavix , lovenox. Has triplle lumen CVC for
   access and continues on IV PPI
 ATRIAL FIBRILLATION (AFIB)
   currently stable, but ? irregular pattern to pacer firing. Will consult
   EP  to interrogate.
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Cr climbing (1.0 to 1.6)  and UOP declining post-op. Likely ATN,
   renally dose meds, avoid nephrotoxins, monitor lytes,  respiratory
   status. No acute indication for RRT
   at this time.
   ICU Care
   Nutrition:
   Comments: NPO as per surgery, nutrition consult for TPN.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2161-03-18 09:43:00 Physician Attending Progress Note
Chief Complaint: Presented with bleeding duodenal ulcer now c/b
   perforation and s/p OR
   HPI:
   S/P omental patch required pressor support in OR, but off on return to
   [**Hospital Unit Name 1**]. Hypotensive throughout the night, received a total of 7 L fluid.
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2161-3-17**] 12:17 PM
 OR SENT - At [**2161-3-17**] 06:45 PM
 OR RECEIVED - At [**2161-3-17**] 10:36 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-17**] 02:03 AM
   Vancomycin - [**2161-3-17**] 10:29 AM
   Meropenem - [**2161-3-18**] 01:01 AM
   Fluconazole - [**2161-3-18**] 01:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-3-18**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2161-3-18**] 08:05 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history: unchanged from admit
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Genitourinary: decreased urine output
   Flowsheet Data as of  [**2161-3-18**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 82 (73 - 109) bpm
   BP: 123/77(93) {96/59(74) - 158/88(111)} mmHg
   RR: 17 (7 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 80 kg
   Height: 66 Inch
   CVP: 14 (9 - 16)mmHg
   Total In:
                                                                  2,821 mL
                                                                 10,863 mL
   PO:
   TF:
   IVF:
                                                                  1,821 mL
                                                                 10,113 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,301 mL
                                                                    747 mL
   Urine:
                                                                  1,196 mL
                                                                     97 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                    105 mL
                                                                    445 mL
   Balance:
                                                                  1,520 mL
                                                                 10,116 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.30/29/159/14/-10
   Ve: 10.9 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Intubated sedated, grimaces to touch
   PERRLA
   Sym air movement/chest wall excursion, coarse BS
   s1 s2 irreg
   Decreased BS, soft, tender, drains and GJ/dressings in place
   1+ edema pretibial and depend
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse:diminished), (Left DP pulse: diminshed
   Skin:  extremities warmer
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   111 K/uL
   138 mg/dL
   1.6 mg/dL
   14 mEq/L
   4.4 mEq/L
   35 mg/dL
   117 mEq/L
   138 mEq/L
   34
   12.7 K/uL
        [image002.jpg]
                             [**2161-3-17**]  08:35 PM
                             [**2161-3-17**]  09:53 PM
                             [**2161-3-17**]  10:50 PM
                             [**2161-3-17**]  11:40 PM
                             [**2161-3-18**]  12:32 AM
                             [**2161-3-18**]  02:18 AM
                             [**2161-3-18**]  03:30 AM
                             [**2161-3-18**]  03:44 AM
                             [**2161-3-18**]  05:55 AM
                             [**2161-3-18**]  06:19 AM
   WBC
   11.9
   12.7
   Hct
   31
   35
   36.0
   36.4
   34
   Plt
   116
   111
   Cr
   1.4
   1.6
   TropT
   0.05
   0.29
   TCO2
   16
   17
   18
   15
   14
   15
   15
   Glucose
   105
   121
   122
   128
   138
   Other labs: PT / PTT / INR:13.3/25.4/1.1, CK / CKMB /
   Troponin-T:39/4/0.29, ALT / AST:77/64, Alk Phos / T Bili:140/1.2,
   Amylase / Lipase:57/17, Differential-Neuts:96.2 %, Band:0.0 %,
   Lymph:2.1 %, Mono:1.6 %, Eos:0.0 %, Fibrinogen:597 mg/dL, Lactic
   Acid:2.3 mmol/L, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca
   geting palliative xrt, admitted from NH on [**3-10**] for lethargy and
   confusion, felt [**2-14**] medications/narcotics, with additional infectious
   work up pursued,
   transferred to MICU for UGI from large DU c/b hypotension, afib,
   intubated for egd,  arf , VAP/aspiration , and duod perforation POD 1
   omental patch
   #Perforated Duodenal Ulcer
   POD #1, currently hemodynamically stable s/p aggressive fluid
   resuscitation. On Vanc and Meropenem. Maintained NPO. Following
   lactate. Starting fluconazole today.
   Likely volume replete at this point, will aim TBB even.
   # Respiratory Failure
   Improved ventilation with increased tidal volume. Currently oxygenation
   stable, airway pressures stable. Covered for Kleb pneumonia (?
   aspiration)
 CANCER (MALIGNANT NEOPLASM), LUNG
   Continues on steroid taper as per rad onc. recieved stress dose
   steroids in the OR. Will taper aggresively. Now on 2 q12.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Hct q8hrs, holding ASA, plavix , lovenox. Has TLC L IJ  for access and
   continues on IV PPI
 ATRIAL FIBRILLATION (AFIB), on dig
follow levels
   currently stable, but ? irregular pattern to pacer firing.
   Will consult EP  to interrogate.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Cr increasing (1.0 to 1.6)  and UOP declining post-op. Likely ATN,
   renally dose meds, avoid nephrotoxins, monitor lytes,  respiratory
   status. No acute indication for RRT
   # CAD
troponin increase
likely demand ischemia in setting of
   hypotension peri-op, recent echo
       holding asa and plavix in setting of GIB and surgery, bp now
   stable, trend enzymes
   # Advanced malignancy
palliative xrt if stabilzes/ taper decadron
   ICU Care
   Nutrition:
   Comments: NPO as per surgery, nutrition consult for TPN.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45
   Patient is critically ill

2161-03-18 09:43:00 Physician Attending Progress Note
Chief Complaint: Presented with bleeding duodenal ulcer now c/b
   perforation and s/p OR
   HPI:
   S/P omental patch required pressor support in OR, but off on return to
   [**Hospital Unit Name 1**]. Hypotensive throughout the night, received a total of 7 L fluid.
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2161-3-17**] 12:17 PM
 OR SENT - At [**2161-3-17**] 06:45 PM
 OR RECEIVED - At [**2161-3-17**] 10:36 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-17**] 02:03 AM
   Vancomycin - [**2161-3-17**] 10:29 AM
   Meropenem - [**2161-3-18**] 01:01 AM
   Fluconazole - [**2161-3-18**] 01:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-3-18**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2161-3-18**] 08:05 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history: unchanged from admit
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Genitourinary: decreased urine output
   Flowsheet Data as of  [**2161-3-18**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 82 (73 - 109) bpm
   BP: 123/77(93) {96/59(74) - 158/88(111)} mmHg
   RR: 17 (7 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 80 kg
   Height: 66 Inch
   CVP: 14 (9 - 16)mmHg
   Total In:
                                                                  2,821 mL
                                                                 10,863 mL
   PO:
   TF:
   IVF:
                                                                  1,821 mL
                                                                 10,113 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,301 mL
                                                                    747 mL
   Urine:
                                                                  1,196 mL
                                                                     97 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                    105 mL
                                                                    445 mL
   Balance:
                                                                  1,520 mL
                                                                 10,116 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.30/29/159/14/-10
   Ve: 10.9 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   111 K/uL
   138 mg/dL
   1.6 mg/dL
   14 mEq/L
   4.4 mEq/L
   35 mg/dL
   117 mEq/L
   138 mEq/L
   34
   12.7 K/uL
        [image002.jpg]
                             [**2161-3-17**]  08:35 PM
                             [**2161-3-17**]  09:53 PM
                             [**2161-3-17**]  10:50 PM
                             [**2161-3-17**]  11:40 PM
                             [**2161-3-18**]  12:32 AM
                             [**2161-3-18**]  02:18 AM
                             [**2161-3-18**]  03:30 AM
                             [**2161-3-18**]  03:44 AM
                             [**2161-3-18**]  05:55 AM
                             [**2161-3-18**]  06:19 AM
   WBC
   11.9
   12.7
   Hct
   31
   35
   36.0
   36.4
   34
   Plt
   116
   111
   Cr
   1.4
   1.6
   TropT
   0.05
   0.29
   TCO2
   16
   17
   18
   15
   14
   15
   15
   Glucose
   105
   121
   122
   128
   138
   Other labs: PT / PTT / INR:13.3/25.4/1.1, CK / CKMB /
   Troponin-T:39/4/0.29, ALT / AST:77/64, Alk Phos / T Bili:140/1.2,
   Amylase / Lipase:57/17, Differential-Neuts:96.2 %, Band:0.0 %,
   Lymph:2.1 %, Mono:1.6 %, Eos:0.0 %, Fibrinogen:597 mg/dL, Lactic
   Acid:2.3 mmol/L, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   86 yo M with cad, svt with pacer, recently dx'd metastatic lung ca
   geting palliative xrt, admitted from NH on [**3-10**] for lethargy and
   confusion, felt [**2-14**] medications/narcotics, with additional infectious
   work up pursued,
   transferred to MICU for UGI from large DU c/b hypotension, afib,
   intubated for egd,  arf , VAP/aspiration , and duod perforation POD 1
   omental patch
   #Perforated Duodenal Ulcer
   POD #1, currently hemodynamically stable s/p aggressive fluid
   resuscitation. On Vanc and Meropenem. Maintained NPO. Following
   lactate. Starting fluconazole today.
   Likely volume replete at this point, will aim TBB even.
   # Respiratory Failure
   Improved ventilation with increased tidal volume. Currently oxygenation
   stable, airway pressures stable. Covered for Kleb pneumonia (?
   aspiration)
 CANCER (MALIGNANT NEOPLASM), LUNG
   Continues on steroid taper as per rad onc. recieved stress dose
   steroids in the OR. Will taper aggresively. Now on 2 q12.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Hct q8hrs, holding ASA, plavix , lovenox. Has TLC L IJ  for access and
   continues on IV PPI
 ATRIAL FIBRILLATION (AFIB)
   currently stable, but ? irregular pattern to pacer firing.
   Will consult EP  to interrogate.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Cr increasing (1.0 to 1.6)  and UOP declining post-op. Likely ATN,
   renally dose meds, avoid nephrotoxins, monitor lytes,  respiratory
   status. No acute indication for RRT
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Comments: NPO as per surgery, nutrition consult for TPN.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45
   Patient is critically ill

2161-03-18 09:43:00 Physician Attending Progress Note
Chief Complaint: Presented with bleeding duodenal ulcer now c/b
   perforation and s/p OR
   HPI:
   S/P omental patch required pressor support in OR, but off on return to
   [**Hospital Unit Name 1**]. Hypotenssive throughout the night, recieved a total of 7 L
   fluid.
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2161-3-17**] 12:17 PM
 OR SENT - At [**2161-3-17**] 06:45 PM
 OR RECEIVED - At [**2161-3-17**] 10:36 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-3-17**] 02:03 AM
   Vancomycin - [**2161-3-17**] 10:29 AM
   Meropenem - [**2161-3-18**] 01:01 AM
   Fluconazole - [**2161-3-18**] 01:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-3-18**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2161-3-18**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Genitourinary: decreased urine output
   Flowsheet Data as of  [**2161-3-18**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 82 (73 - 109) bpm
   BP: 123/77(93) {96/59(74) - 158/88(111)} mmHg
   RR: 17 (7 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.8 kg (admission): 80 kg
   Height: 66 Inch
   CVP: 14 (9 - 16)mmHg
   Total In:
                                                                  2,821 mL
                                                                 10,863 mL
   PO:
   TF:
   IVF:
                                                                  1,821 mL
                                                                 10,113 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,301 mL
                                                                    747 mL
   Urine:
                                                                  1,196 mL
                                                                     97 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
                                                                    105 mL
                                                                    445 mL
   Balance:
                                                                  1,520 mL
                                                                 10,116 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (400 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.30/29/159/14/-10
   Ve: 10.9 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.3 g/dL
   111 K/uL
   138 mg/dL
   1.6 mg/dL
   14 mEq/L
   4.4 mEq/L
   35 mg/dL
   117 mEq/L
   138 mEq/L
   34
   12.7 K/uL
        [image002.jpg]
                             [**2161-3-17**]  08:35 PM
                             [**2161-3-17**]  09:53 PM
                             [**2161-3-17**]  10:50 PM
                             [**2161-3-17**]  11:40 PM
                             [**2161-3-18**]  12:32 AM
                             [**2161-3-18**]  02:18 AM
                             [**2161-3-18**]  03:30 AM
                             [**2161-3-18**]  03:44 AM
                             [**2161-3-18**]  05:55 AM
                             [**2161-3-18**]  06:19 AM
   WBC
   11.9
   12.7
   Hct
   31
   35
   36.0
   36.4
   34
   Plt
   116
   111
   Cr
   1.4
   1.6
   TropT
   0.05
   0.29
   TCO2
   16
   17
   18
   15
   14
   15
   15
   Glucose
   105
   121
   122
   128
   138
   Other labs: PT / PTT / INR:13.3/25.4/1.1, CK / CKMB /
   Troponin-T:39/4/0.29, ALT / AST:77/64, Alk Phos / T Bili:140/1.2,
   Amylase / Lipase:57/17, Differential-Neuts:96.2 %, Band:0.0 %,
   Lymph:2.1 %, Mono:1.6 %, Eos:0.0 %, Fibrinogen:597 mg/dL, Lactic
   Acid:2.3 mmol/L, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   #Perforated Duodenal Ulcer
   POD #1, currently hemoodynamically stable s/p agressive fluid
   resuscitation. On Vanc and Meropenem. Maintained NPO. Following
   lactate. Starting fluconazole today.
   Likely volume replete at this point, will aim TBB even.
   # Respiratory Failure
   Improved ventilation with increased tidal volume. Currently oxygenation
   stable, airway preassures stable. Covered for Kleb pneumonia.
 CANCER (MALIGNANT NEOPLASM), LUNG
   Continues on steroid taper as per rad onc. recieved stress dose
   steroids in the OR. Will taper aggresively. Now on 2 q12.
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   Hct q8hrs, holding ASA,plavix , lovenox. Has triplle lumen CVC for
   access and continues on IV PPI
 ATRIAL FIBRILLATION (AFIB)
   currently stable, but ? irregular pattern to pacer firing. Will consult
   EP  to interrogate.
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Cr climbing (1.0 to 1.6)  and UOP declining post-op. Likely ATN,
   renally dose meds, avoid nephrotoxins, monitor lytes,  respiratory
   status. No acute indication for RRT
   at this time.
   ICU Care
   Nutrition:
   Comments: NPO as per surgery, nutrition consult for TPN.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2161-3-15**] 01:38 PM
   Arterial Line - [**2161-3-16**] 02:02 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill